US04115575
13.6 g of p-toluenesulphonyl chloride are introduced over the course of 15 minutes, whilst stirring, into a solution of 11.8 g of 2-(2',3'-dihydroxy-propoxy)-pyrimidine in 18 ml of pyridine which is cooled to -10° C. The reaction mixture is kept at 0° C. for 15 hours. Ice is then added followed by 20 ml of 6 N hydrochloric acid introduced whilst stirring. The mixture is then twice extracted with 150 ml of methylene chloride at a time. The extracts are washed with sodium bicarbonate solution, dried over sodium sulphate and evaporated. 2-(3'-p-Toluenesulphonyloxy-2'-hydroxy-propoxy)-pyrimidine is obtained as a yellowish oil.

reactant | p-toluenesulphonyl chloride | 13.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-(2',3'-dihydroxy-propoxy)-pyrimidine | 11.8 g | OC(COC1=NC=CC=N1)CO | C7H10N2O3
reactant | hydrochloric acid | 6 N, 20 ml | Cl | ClH
solvent | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3'-p-Toluenesulphonyloxy-2'-hydroxy-propoxy)-pyrimidine | C1(=CC=C(C=C1)S(=O)(=O)OCC(COC1=NC=CC=N1)O)C | C14H16N2O5S
